US08604074B2
Step 1. Synthesis of 3,6-Dimethyl-9-(oxiran-2-ylmethyl)-9H-carbazole
Following Representative Procedure 1, 3,6-dimethyl carbazole (Beyer, M.; Fritscher, J.; Feresin, E.; Schiemann, O. J. Org. Chem. 2003, 68, 2209-2215) was added to epichlorohydrin in 69% yield.

reactant | 3,6-dimethyl carbazole | CC=1C=CC=2NC3=CC=C(C=C3C2C1)C | C14H13N
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
product | 3,6-Dimethyl-9-(oxiran-2-ylmethyl)-9H-carbazole | 69% yield | CC=1C=CC=2N(C3=CC=C(C=C3C2C1)C)CC1OC1 | C17H17NO
